US07687503B2
7.2. 1,1-dimethylethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate
2.70 g (15.19 mmol) of N-bromosuccinimide (NBS) are added portionwise to a solution of 4 g (15.19 mmol) of 1,1-dimethylethyl 4-(3-pyridyl)-1-piperazinecarboxylate, obtained in step 7.1., in 50 ml of acetonitrile, cooled to about 0° C. Stirring is continued at 0° C. for 15 minutes and then at room temperature for 2 hours. 100 ml of aqueous sodium hydroxide solution (1M) and 100 ml of ethyl acetate are added to the reaction medium. The aqueous phase is separated out and extracted twice with ethyl acetate, the combined organic phases are washed with saturated aqueous sodium chloride solution and dried over sodium sulfate, and the filtrate is concentrated under reduced pressure. 5.16 g of product are thus obtained in the form of an orange-yellow solid, and are used without further purification in the following step.

reactant | N-bromosuccinimide | 15.19 mmol, 2.70 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1,1-dimethylethyl 4-(3-pyridyl)-1-piperazinecarboxylate | 15.19 mmol, 4 g | N1=CC(=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H21N3O2
reactant | sodium hydroxide | 1M, 100 ml | [OH-].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1,1-dimethylethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate | 5.16 g | BrC1=CC=C(C=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20BrN3O2
